US07138402B2
A solution of octanoic acid (4-oxo-6-pyrrolidin-1-ylmethyl-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-amide (0.36 g 1 mmol; J. Chem. Soc. Perkin Trans. 1 1998, 1637), BnNEt3Cl (0.70 g, 2 mmol), PhNMe2 (0.25 mL) and POCl3 (0.86 mL, 6 mmol) in CH3CN (5 mL) was heated to 100° C. for 40 min and concentrated. The residue was poured into ice water and neutralized with 2N NaOH, extracted with EtOAc (50 mL×3), and evaporated to give octanoic acid (4-chloro-6-pyrrolidin-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-amide as a crude (0.33 g) which was used without purification. HPLC Rt: 6.737 min. 1H-NMR (CDCl3): δ 11.60 (br s, 1H), 10.20 (br s, 1H), 6.38 (s, 1H), 3.86 (s, 2H), 2.90 (m, 2H), 2.70 9s, 4H), 1.86 (s, 4H), 1.78 (t, 2H), 1.32–1.29 (m, 8H), 0.90 (t, 3H).

reactant | octanoic acid (4-oxo-6-pyrrolidin-1-ylmethyl-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-amide | 1 mmol, 0.36 g | O=C1C2=C(N=C(N1)NC(CCCCCCC)=O)NC(=C2)CN2CCCC2 | C19H29N5O2
reactant | PhNMe2 | 0.25 mL | C1(=CC=CC=C1)N(C)C | C8H11N
reactant | POCl3 | 6 mmol, 0.86 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | octanoic acid (4-chloro-6-pyrrolidin-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-amide | ClC=1C2=C(N=C(N1)NC(CCCCCCC)=O)NC(=C2)CN2CCCC2 | C19H28ClN5O
